US05071966
[Synthesis of allyl 2-diazo-3-trimethylsilyloxybutenoate]
Into 5 ml of dry acetonitrile were added 167 mg (1 millimole) of allyl 2-diazoacetoacetate and 210 mg (1.4 millimoles) of sodium iodide. To the mixture were added 220 μl (1.6 millimoles) of triethylamine and then 190 μl (1.5 millimoles) of trimethylsilyl chloride while agitating under an argon atmosphere at a room temperature. After the resultant was agitated at a room temperature for an hour, it was concentrated under a reduced pressure. To the residue was added 10 ml of dry hexane, and the resultant was agitated for 30 min. at a room temperature. Isoluble materials were removed by filtration and the hexane solution was concentrated to dryness under a reduced pressure to give 176 mg (yield 78.8%) of the desired compound in an oily state.

reactant | allyl 2-diazoacetoacetate | 1 millimole, 167 mg | [N+](=[N-])=C(C(=O)OCC=C)C(=O)C | C7H8N2O3
reactant | sodium iodide | 1.4 millimoles, 210 mg | [I-].[Na+]
reactant | triethylamine | 1.6 millimoles, 220 μl | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl chloride | 1.5 millimoles, 190 μl | C[Si](C)(C)Cl | C3H9ClSi
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | allyl 2-diazo-3-trimethylsilyloxybutenoate | 176 mg, yield 78.8% | [N+](=[N-])=C(C(=O)OCC=C)C(=C)O[Si](C)(C)C | C10H16N2O3Si
